US07732616B2
Step D: Preparation of (S)-2-(4-Bromo-2-fluorophenylamino)-N-(2-(tert-butyldimethylsilyloxy)propoxy)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxamide:
To a solution of methyl 2-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate (0.050 g, 0.14 mmol) and (S)—O-(2-(tert-butyldimethylsilyloxy)propyl)hydroxylamine (0.072 g, 0.35 mmol) in THF (1.50 mL) at 0° C. was slowly added lithium bis(trimethylsilyl)amide (0.70 ml, 0.70 mmol). After addition, the reaction mixture was stirred for 1 hour at room temperature and then quenched by with saturated NaHCO3. The reaction mixture was partitioned between EtOAc and sat NaCl. The layers were separated and the aqueous layer was back-extracted with EtOAc (1×). The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure to yield a crude brown solid that was used without further purification in the next step.

reactant | methyl 2-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.14 mmol, 0.050 g | BrC1=CC(=C(C=C1)NC=1N(C(C=CC1C(=O)OC)=O)C)F | C14H12BrFN2O3
reactant | (S)—O-(2-(tert-butyldimethylsilyloxy)propyl)hydroxylamine | 0.35 mmol, 0.072 g | [Si](C)(C)(C(C)(C)C)O[C@H](CON)C | C9H23NO2Si
reactant | lithium bis(trimethylsilyl)amide | 0.70 mmol, 0.70 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 1.50 mL | C1CCOC1 | C4H8O
product | (S)-2-(4-Bromo-2-fluorophenylamino)-N-(2-(tert-butyldimethylsilyloxy)propoxy)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxamide | BrC1=CC(=C(C=C1)NC=1N(C(C=CC1C(=O)NOC[C@H](C)O[Si](C)(C)C(C)(C)C)=O)C)F | C22H31BrFN3O4Si
